US07776869B2
3-(3-Piperidin-1-yl-propoxy)aniline
The title compound was prepared by a method similar to that described in Example 154 above, wherein 3-nitrophenol was substituted for 4-nitrophenol in Step 1 and piperidine for dimethylamine hydrochloride in Step 2. MS (m/z)=235.2 (M+H+); Calc'd for C14H23N2O=234.34.

reactant | 3-nitrophenol | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | 4-nitrophenol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | dimethylamine hydrochloride | Cl.CNC
product | 3-(3-Piperidin-1-yl-propoxy)aniline | N1(CCCCC1)CCCOC=1C=C(N)C=CC1 | C14H22N2O
